### PR TITLE
[Merged by Bors] - feat: the pretriangulated structure on the opposite category

### PR DESCRIPTION
**Pull request by joelriou**
---

(I also have a proof of the octahedron axiom, but compatibilites are still a bit messy.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Triangulated/Opposite.lean [hunk 1]
```diff
@@ -300,8 +316,103 @@ lemma isomorphic_distinguished (T₁ : Triangle Cᵒᵖ)
...
+  refine' ⟨c.op, Quiver.Hom.unop_inj hc₁.symm, Quiver.Hom.unop_inj _⟩
+  apply (shiftFunctor C (1 : ℤ)).map_injective
+  rw [unop_comp, unop_comp, Functor.map_comp, Functor.map_comp,
+    Quiver.Hom.unop_op, hc₂, ← unop_comp_assoc, ← unop_comp_assoc,
+    ← opShiftFunctorEquivalence_unitIso_inv_naturality]
+  simp
+
+/-- The pretriangulated structure on the opposite category of
+a pretriangulated category. -/
+scoped instance : Pretriangulated Cᵒᵖ where
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Triangulated/Opposite.lean:387]: Why does this instance need to be scoped? Can you please document that here, or add a link to some library note that explains it?

Comment (joelriou) [reply Mathlib/CategoryTheory/Triangulated/Opposite.lean:391]: Thanks for the review. I have added a comment.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
